US04985582
3-Cyclohexyl-3-formyloxetane (1.7 g) was dissolved in methanol (10 ml) at 25° C. In succession, anhydrous sodium acetate (3.3 g), methylamine hydrochloride (3.4 g) and sodium cyanoborohydride (630 mg) were added, followed by a further volume of methanol (30 ml). The mixture was stirred overnight and then basified with sodium hydroxide solution (1M, 22 ml) to pH9. Ether extraction, washing and drying, followed by evaporation gave 3-cyclohexyl-3-methylaminomethyloxetane as a colourless oil.

reactant | 3-Cyclohexyl-3-formyloxetane | 1.7 g | C1(CCCCC1)C1(COC1)C=O | C10H16O2
reactant | sodium acetate | 3.3 g | C(C)(=O)[O-].[Na+]
reactant | methylamine hydrochloride | 3.4 g | Cl.CN
reactant | sodium cyanoborohydride | 630 mg | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | 1M, 22 ml | [OH-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 3-cyclohexyl-3-methylaminomethyloxetane | C1(CCCCC1)C1(COC1)CNC | C11H21NO
